US08357693B2
To a solution of 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)acetic acid (80 mg, 0.16 mmol) in dry CH2Cl2:DMF (2.0:0.1 mL), added DIEA (29 μL, 0.16 mmol) and PyBOP® (46 mg, 0.088 mmol). After stirring the mixture at RT for 15 minutes, methanamine was bubbled through the solution for 15 minutes. Added another 1.0 equivalent of DIEA and 0.55 equivalents of PyBOP® after stirring the solution for 15 minutes, followed by methanamine bubbling for an additional 15 minutes. The solvent was removed in vacuo and the crude material was purified by prep HPLC (method 20-45—90 mins) to afford 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)-N-methylacetamide. (46 mg, 0.11 mmol, 68%).

reactant | 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)acetic acid | 0.16 mmol, 80 mg | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(OCC(=O)O)C=CC1 | C23H17N5O3
reactant | DIEA | 0.16 mmol, 29 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBOP | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1.0 equivalent | CCN(C(C)C)C(C)C | C8H19N
reactant | PyBOP | 0.55 equivalents | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | methanamine | CN | CH5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | DMF | 0.1 mL | CN(C)C=O | C3H7NO
product | 2-(3-(4-(1H-indazol-5-ylamino)quinazolin-2-yl)phenoxy)-N-methylacetamide | N1N=CC2=CC(=CC=C12)NC1=NC(=NC2=CC=CC=C12)C=1C=C(OCC(=O)NC)C=CC1 | C24H20N6O2
